US04207341
4-(5-Chloro-2-methoxybenzamido)-phenylacetic acid
with 3,5-dichlorobenzoyl chloride, ethyl 4-(3,5-dichlorobenzamido)-phenylacetate; m.p. 152° C. (crude melting point); and from this, by saponification, 4-(3,5-dichlorobenzamido)-phenylacetic acid; m.p. 189° C., after recrystallization from ethanol-water.

reactant | 3,5-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | ethyl 4-(3,5-dichlorobenzamido)-phenylacetate | ClC=1C=C(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)C=C(C1)Cl | C17H15Cl2NO3
reactant | 4-(3,5-dichlorobenzamido)-phenylacetic acid | ClC=1C=C(C(=O)NC2=CC=C(C=C2)CC(=O)O)C=C(C1)Cl | C15H11Cl2NO3
product | 4-(5-Chloro-2-methoxybenzamido)-phenylacetic acid | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)CC(=O)O)C1)OC | C16H14ClNO4
